US07179632B2
10 grams of L-Alliin was added to 200 ml of distilled water and 12 grams of fresh garlic cloves were added as described above in (Example 3). When the reaction was complete, after approximately 3 hrs., the reaction mixture was extracted with a suitable solvent such as 50 ml of diethyl ether. The ether layer was separated, dried over Magnesium Sulphate, filtered and evaporated to a straw coloured liquid yielding 1 gram of allicin. This was dissolved in distilled water (100 ml) and the 1% Allicin solution was stored at −20 C.

reactant | L-Alliin | 10 grams | N[C@@H](CS(=O)CC=C)C(=O)O | C6H11NO3S
solvent | water | 200 ml | O | H2O
product | allicin | 1 gram | C=CCS(SCC=C)=O | C6H10OS2
